US04175203
Step A(5): Preparation of Ethyl [2-(3-Hydroxypropyl)-phenyl]acetate
A solution of [2-(3-hydroxypropyl)phenyl]acetic acid (48.6 g., 0.25 mole) and sulfuric acid (3 ml.) in ethanol (400 ml.) is heated at reflux for 6 hours. Workup as described in Example 25, Step A(3) yields the title compound.

reactant | [2-(3-hydroxypropyl)phenyl]acetic acid | 0.25 mole, 48.6 g | OCCCC1=C(C=CC=C1)CC(=O)O | C11H14O3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | Ethyl [2-(3-Hydroxypropyl)-phenyl]acetate | OCCCC1=C(C=CC=C1)CC(=O)OCC | C13H18O3
